2171-03-07 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pt's respiratory status did not improve with adjustment of his BiPAP,
   ultimately resulting in intubation/mechanical ventilation
   Allergies:
   Penicillins
   itching;
   Levofloxacin
   Rash;
   Phenazopyridine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2171-3-7**] 12:00 AM
   Midazolam (Versed) - [**2171-3-7**] 06:00 AM
   Fentanyl - [**2171-3-7**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-7**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 89 (85 - 107) bpm
   BP: 105/58(75) {64/47(54) - 120/60(79)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                      1 mL
                                                                    453 mL
   PO:
             TF:
   IVF:
                                                                      1 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    300 mL
   Urine:
                                                                    260 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -259 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.25/91.[**Numeric Identifier 96**]/277//9
   Ve: 8.4 L/min
   PaO2 / FiO2: 554
   Physical Examination
   GENERAL: Sedated, Intubated..
   HEENT: NC/AT.
   NECK: JVP of [**10-15**] cm.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4 appreciated.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Harsh breath
   sounds anteriorly. ?decreased breath sounds at the right base.
   ABDOMEN: Obese. Soft, NTND. No masses noted.
   EXTREMITIES: No c/c. Some edema at the ankles.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   4.0 mEq/L
        [image002.jpg]
   No other labs yet this morning.
                             [**2171-3-7**]  03:16 AM
                             [**2171-3-7**]  03:39 AM
                             [**2171-3-7**]  04:11 AM
   TropT
   0.09
   TCO2
   43
   42
   Other labs: CK / CKMB / Troponin-T:47//0.09, Lactic Acid:0.8 mmol/L
   Assessment and Plan
   [**Age over 90 323**] y/o M with history of CHF, ?COPD who was sent to the ED from [**Hospital 12**]
   Rehab for respiratory distress.
   .
   # Respiratory Distress
 dCHF vs. PNA vs. COPD.  Story does not seem
   likely for COPD. Pt is now s/p intubation. Likely a component of
   CHF/fluid overload. For this, the patient has received Lasix boluses.
   Also, possibly a component of PNA, as pt was noted to have purulent
   sputum from ET tube.
   - continue bolus lasix to attempt to get fluid off of pt
 goal for
   today of negative 500 to 1000 cc
   - trend ABG's
   - vanc/cefepime for empiric therapy for PNA
   - resuming bronchodilators
   - continue to cycle cardiac enzymes
   - repeat echo in AM
   - sputum cx sent, will f/u
   - attempt to wean down pressors
   .
   # CORONARIES: Pt with a history of CAD, no other details seen in OMR.
   - attempt to obtain outside records
   - conitnue ROMI
   .
   # PUMP: Reported history of CHF, although most recent echo in OMR does
   not show notable systolic or diastolic dysfunction.
   - repeat echo in AM
   - continue to bolus lasix for fluid removal
   .
   # RHYTHM: Pt is in a demand-paced rhythm.
   - continue telemetry
   - continue coumadin for atrial fibrillation
   .
   # Atrial Fibrillation - Pt with a history of atrial fibrillation. He is
   on coumadin for anticoagulation.
   - continue coumadin with goal INR [**2-6**]
   - FFP on standby in case pt needs a CVL
   .
   # Hypertension - Pt with a history of hypertension but is not on any
   antihypertensives.
   - attempt to obtain outside records
   - monitor BP, currently borderline hypotensive
   .
   # Hypothyroidism
   - continue levothyroxine
   .
   # ?COPD - Pt with reported history of COPD.
   - attempt to obtain outside records
   - restarting bronchodilators
   .
   # Acute on Chronic Renal Insufficiency - Baseline Cr is 1.3 - 1.6.
   Current Cr is 1.9.  Likely, this is pre-renal in the setting of CHF
   (?poor forward flow).
   - continue to trend creatinine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-3-6**] 11:37 PM
   20 Gauge - [**2171-3-6**] 11:38 PM
   Arterial Line - [**2171-3-7**] 03:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   Intubated
   Diuresing today and intention to remove peripheral dopamine
   no evidence of ischemia.
   unclear source for acute chf at this point.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **],MD
   on:[**2171-3-7**] 13:23 ------

2171-03-08 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -TTE showed mild symmetric LVH, small LV, hyperdynamic (EF>75%). RV
   moderately dilated with mild global free wall hypokinesis. Abnormal
   septal motion/position. 1+ MR. 3+ TR. Moderate pulm artery HTN.
   -Nurses and MD unable to place OG or NG tube; NG tube placed by IR
   -urine culture with GNRs 10,000 to 100,000
   -dopamine weaned to 3 mcg/kg/min
   -d/c'ed Coumadin in setting of supratherapeutic INR
   -gave additional dose of Lasix in p.m.
   Allergies:
   Penicillins
   itching;
   Levofloxacin
   Rash;
   Phenazopyridine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2171-3-7**] 08:30 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-3-7**] 07:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt able to nod to answer questions, indicates that he is not in pain.
   Flowsheet Data as of  [**2171-3-8**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 66 (66 - 116) bpm
   BP: 98/51(68) {71/48(57) - 144/79(102)} mmHg
   RR: 16 (12 - 17) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97 kg (admission): 96.4 kg
             Total In:
                                                                  1,115 mL
                                                                    353 mL
   PO:
             TF:
   IVF:
                                                                  1,115 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    780 mL
   Urine:
                                                                  1,915 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 6 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 27 cmH2O
   Plateau: 17 cmH2O
   SpO2: 93%
   ABG: 7.47/50/77/37/10
   Ve: 8.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   GENERAL: Sedated, Intubated..
   HEENT: NC/AT.
   NECK: JVP of [**10-15**] cm.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4 appreciated.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Harsh breath
   sounds anteriorly. ?decreased breath sounds at the right base.
   ABDOMEN: Obese. Soft, NTND. No masses noted.
   EXTREMITIES: No c/c. Some edema at the ankles.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   300 K/uL
   12.0 g/dL
   104 mg/dL
   1.9 mg/dL
   37 mEq/L
   4.3 mEq/L
   45 mg/dL
   102 mEq/L
   146 mEq/L
   37.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2171-3-7**]  03:16 AM
                             [**2171-3-7**]  03:39 AM
                             [**2171-3-7**]  04:11 AM
                             [**2171-3-7**]  07:43 AM
                             [**2171-3-7**]  12:48 PM
                             [**2171-3-7**]  08:23 PM
                             [**2171-3-7**]  10:56 PM
                             [**2171-3-8**]  03:48 AM
                             [**2171-3-8**]  04:01 AM
   WBC
   6.8
   Hct
   38.9
   37.0
   Plt
   300
   Cr
   1.9
   1.9
   TropT
   0.09
   0.09
   TCO2
   43
   42
   37
   36
   39
   37
   Glucose
   103
   104
   Other labs: PT / PTT / INR:45.6/32.9/4.9, CK / CKMB /
   Troponin-T:52//0.09, Lactic Acid:1.2 mmol/L, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   [**Age over 90 323**] y/o M with history of CHF, ?COPD who was sent to the ED from [**Hospital 12**]
   Rehab for respiratory distress.
   .
   # Respiratory Distress
 dCHF vs. PNA vs. COPD.  Story does not seem
   likely for COPD. Pt is now s/p intubation. Likely a component of
   CHF/fluid overload. PNA a possibility; however, pt has not had grown
   anything out of sputum, no leukocytosis and no significant fevers.
   - continue bolus lasix to attempt to get fluid off of pt
 goal for
   today of negative 500 to 1000 cc
   - trend ABG's
   - vanc/cefepime for empiric therapy for PNA
   - resuming bronchodilators
   - continue to cycle cardiac enzymes
   - repeat echo in AM
   - sputum cx sent, will f/u
   - attempt to wean down pressors
   .
   # CORONARIES: Pt with a history of CAD, no other details seen in OMR.
   - attempt to obtain outside records
   - conitnue ROMI
   .
   # PUMP: Reported history of CHF, although most recent echo in OMR does
   not show notable systolic or diastolic dysfunction.
   - repeat echo in AM
   - continue to bolus lasix for fluid removal
   .
   # RHYTHM: Pt is in a demand-paced rhythm.
   - continue telemetry
   - continue coumadin for atrial fibrillation
   .
   # Atrial Fibrillation - Pt with a history of atrial fibrillation. He is
   on coumadin for anticoagulation.
   - continue coumadin with goal INR [**2-6**]
   - FFP on standby in case pt needs a CVL
   .
   # Hypertension - Pt with a history of hypertension but is not on any
   antihypertensives.
   - attempt to obtain outside records
   - monitor BP, currently borderline hypotensive
   .
   # Hypothyroidism
   - continue levothyroxine
   .
   # ?COPD - Pt with reported history of COPD.
   - attempt to obtain outside records
   - restarting bronchodilators
   .
   # Acute on Chronic Renal Insufficiency - Baseline Cr is 1.3 - 1.6.
   Current Cr is 1.9.  Likely, this is pre-renal in the setting of CHF
   (?poor forward flow).
   - continue to trend creatinine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-3-6**] 11:37 PM
   20 Gauge - [**2171-3-6**] 11:38 PM
   Arterial Line - [**2171-3-7**] 03:00 AM
   22 Gauge - [**2171-3-7**] 09:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2171-03-09 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2171-3-8**] 01:06 PM
 EKG - At [**2171-3-8**] 07:30 PM
   -extubated
   -CXR - ?Increased opacity on left.
   - Pt [**Name (NI) 329**].
   - Narrow complex tachycardia during day to 120s. HD stable.? Slow
   AVNRT.
   - Pt repeatedly had accelerated rate with borderline widened QRS
   although seemed paced. Called cards fellow ([**Doctor First Name 11769**]). Unclear if Atach or
   Vtach so performed carotid sinus massage. BP dropped to 90s systolic
   suggesting Atach but remained in tach. Adenosine suggested by fellow
   for diagnostic/therapeutic purposes, but did not think patient could
   tolerate this. On review with cardiology attending this morning, ECG
   more c/w slow VT.
   Allergies:
   Penicillins
   itching;
   Levofloxacin
   Rash;
   Phenazopyridine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2171-3-8**] 08:00 PM
   Cefipime - [**2171-3-8**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-3-9**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-3-9**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 106 (73 - 107) bpm
   BP: 129/65(89) {98/52(67) - 143/79(101)} mmHg
   RR: 30 (16 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 97 kg (admission): 96.4 kg
             Total In:
                                                                    976 mL
                                                                    339 mL
   PO:
                                                                    120 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    656 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                  1,130 mL
   Urine:
                                                                  2,515 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,539 mL
                                                                   -791 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 243 (243 - 699) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 93%
   ABG: 7.43/60/80.[**Numeric Identifier 248**]/36/12
   Ve: 7.2 L/min
   PaO2 / FiO2: 114
   Physical Examination
   GENERAL: Extubated, Alert, Able to answer questions appropriately, Able
   to follow commands, Oriented to person/place/time
   HEENT: NC/AT.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4 appreciated.
   LUNGS: Clear anteriorly, decreased at the bases.
   ABDOMEN: Obese. Soft, NTND. No masses noted.
   EXTREMITIES: No c/c. Some non-pitting edema noted in the LE
   Labs / Radiology
   331 K/uL
   12.3 g/dL
   97 mg/dL
   1.9 mg/dL
   36 mEq/L
   5.0 mEq/L
   47 mg/dL
   102 mEq/L
   148 mEq/L
   38.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2171-3-8**]  03:48 AM
                             [**2171-3-8**]  04:01 AM
                             [**2171-3-8**]  11:39 AM
                             [**2171-3-8**]  12:41 PM
                             [**2171-3-8**]  03:01 PM
                             [**2171-3-8**]  03:22 PM
                             [**2171-3-8**]  04:55 PM
                             [**2171-3-9**]  02:18 AM
                             [**2171-3-9**]  05:57 AM
                             [**2171-3-9**]  06:04 AM
   WBC
   6.8
   6.2
   Hct
   37.0
   38.7
   Plt
   300
   331
   Cr
   1.9
   2.1
   1.9
   TCO2
   37
   37
   35
   42
   40
   40
   41
   Glucose
   104
   102
   97
   Other labs: Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   [**Age over 90 323**] y/o M with history of CHF, ?COPD who was sent to the ED from [**Hospital 12**]
   Rehab for respiratory distress.
   .
   # Respiratory Distress
 dCHF vs. PNA vs. COPD.  Pt is now s/p
   intubation. There was likely a component of CHF/fluid overload. PNA a
   possibility; however, pt has not had grown anything out of sputum, no
   leukocytosis and no significant fevers.  Pt does not seem fluid
   overloaded on exam today.
   - continue to monitor fluid balance; holding on Lasix for now
   - d/c
ed vanc/cefepime at this time as no evidence of PNA
   - continue bronchodilators
   .
   # UTI
 Pt growing Klebsiella out of urine, sensitive to everything but
   Bactrim.
   - starting nitrofurantoin, will d/c on this regimen
   .
   # CORONARIES: Pt with a history of CAD, no other details seen in OMR.
   Ruled out for ACS with CE
   - continue to monitor for CP
   .
   # PUMP: Echo showed mild symmetric LVH, small LV, hyperdynamic
   (EF>75%). RV moderately dilated with mild global free wall hypokinesis.
   Abnormal septal motion/position. 1+ MR. 3+ TR. Moderate pulm artery
   HTN.
   - no further diuresis at this time as does not seem volume overloaded
   on exam
   .
   # RHYTHM: Pt is in a demand-paced rhythm.
   - continue telemetry
   - coumadin on hold [**2-5**] supratherapeutic INR
   .
   # Atrial Fibrillation - Pt with a history of atrial fibrillation. He is
   on coumadin for anticoagulation. INR increased to 8 today, likely in
   the setting of decreased PO intake as well as starting abx.
   - holding coumadin as above
   - gave PO vitamin K this morning
   .
   # Hypertension - Pt with a history of hypertension but is not on any
   antihypertensives.
   - continue to monitor BP
   .
   # Hypothyroidism
   - continue levothyroxine
   .
   # ?COPD - Pt with reported history of COPD.
   - continue bronchodilators bronchodilators
   .
   # Acute on Chronic Renal Insufficiency - Baseline Cr is 1.3 - 1.6.
   Current Cr is 1.9.  Likely, this is pre-renal in the setting of CHF
   (?poor forward flow).
   - continue to trend creatinine
   - advancing diet, encouraging PO intake
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2171-3-7**] 03:00 AM
   22 Gauge - [**2171-3-7**] 09:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin (supratherapeutic at this
   time))
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition: c/o vs. d/c this afternoon
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   perhousestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   significantly improved
   respiratory status/chf markedly improved
   INR elevated - recheck
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **],MD
   on:[**2171-3-9**] 11:05 ------